US06441017B1
Step D: Methyl 3-[1-(4-Cyano-3-fluorobenzyl)-1H-imidazol-5-yl]propionate
A mixture of methyl 3-[1-(triphenylmethyl)-1H-imidazol-4-yl]propionate, as described above in Step C, (5.00 g, 12.6 mmol) and 4-cyano-3-fluorobenzyl bromide, as described in Example 1, Step D, (2.70 g, 12.6 mmol) in EtOAc (30 mL) was heated to 50° C. for 5 hours. The mixture was allowed to cool, and the solid collected by filtration. The EtOAc filtrate was concentrated in vacuo to a volume of approximately 15 mL and then reheated to 50° C. for 3 hours, cooled, and the solid removed by filtration. The two crops of precipitated imidazolium salts were combined in MeOH (120 mL) and CHCl3 (200 mL). The aqueous layer was extracted further with CHCl3 (2×100 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with a gradient of CH2Cl2—1% MeOH—0.1% NH4OH to CH2Cl2—5% MeOH—0.5% NH4OH to yield the titled product.

reactant | methyl 3-[1-(triphenylmethyl)-1H-imidazol-4-yl]propionate | C1(=CC=CC=C1)C(N1C=NC(=C1)CCC(=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H24N2O2
reactant | 4-cyano-3-fluorobenzyl bromide | C(#N)C1=C(C=C(CBr)C=C1)F | C8H5BrFN
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | Methyl 3-[1-(4-Cyano-3-fluorobenzyl)-1H-imidazol-5-yl]propionate | C(#N)C1=C(C=C(CN2C=NC=C2CCC(=O)OC)C=C1)F | C15H14FN3O2
